* Z:\mnt\design.r\spice\examples\ADP5302-2.asc
L1 N002 OUT 2.2µ
C1 OUT 0 10µ
R2 N003 0 19.6K
R1 OUT N001 1Meg
V1 IN 0 5
Rload OUT 0 36
XU1 IN IN 0 N003 OUT N001 0 0 N002 0 ADP5302
.tran .6m startup
.lib ADP5302.sub
.backanno
.end
